US06730707B2
N-[2-(5-Dimethylamino-1H-indol-3-yl)-ethyl]-acetamide
N-[2-(5-Nitro-1H-indol-3-yl)-ethyl]-acetamide (0.6 mmol) is taken into acetonitrile (1 mL) and stirred with a catalytic amount of DMAP and di-t-butyl dicarbonate (0.7 mmol) for 1 h. The solvent is removed in vacuo and the remaining oil chromatographed with ethyl acetate-hexane as eluent. The product is dissolved in ethanol (10 ml) and hydrogenated as above. The residue is dissolved in DMF (2 mL), and diisopropylethylamine (1.4 mmol) followed by methyl iodide (1.4 mmol) added. The mixture is stirred 3 h at 25° C. then filtered, evaporated to dryness, dissolved in ethanol and decolorized with activated charcoal. The residue is dissolved in trifluoroacetic acid with 1 equivalent of thiophenol and stirred 1 h at 20° C. The solvent is removed, the compound dissolved in isopropanol-water (5:1) and treated with 2 equivalents (w/w) of Dowex AG1-X8 ion exchange resin in the hydroxide form. Evaporation of the solvent followed by crystallization affords the title compound.

reactant | N-[2-(5-Nitro-1H-indol-3-yl)-ethyl]-acetamide | 0.6 mmol | [N+](=O)([O-])C=1C=C2C(=CNC2=CC1)CCNC(C)=O | C12H13N3O3
reactant | di-t-butyl dicarbonate | 0.7 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | diisopropylethylamine | 1.4 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl iodide | 1.4 mmol | CI | CH3I
reactant | thiophenol | 1 equivalent | C1(=CC=CC=C1)S | C6H6S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N-[2-(5-Dimethylamino-1H-indol-3-yl)-ethyl]-acetamide | CN(C=1C=C2C(=CNC2=CC1)CCNC(C)=O)C | C14H19N3O
